US08044212B2
To a solution of 2,5-dibromo-4-methylbenzoic acid 5.88 g, 20 mmol) in 50 mL of methanol was added 0.2 mL of concentrated sulfuric acid. The resulting solution was refluxed for 24 hours. Evaporation of the solvent gave a residue, which was redissolved into 100 mL of ethyl acetate. The organic layer was washed with saturated sodium biocarbonate solution, water and brine. The resulting organic layer was dried over sodium sulfate. Filtration off sodium sulfate and evaporation of the solvent gave methyl 2,5-dibromo-4-methylbenzoate as a white solid: 6.20 g (100%).

reactant | 2,5-dibromo-4-methylbenzoic acid | 20 mmol, 5.88 g | BrC1=C(C(=O)O)C=C(C(=C1)C)Br | C8H6Br2O2
reactant | sulfuric acid | 0.2 mL | S(O)(O)(=O)=O | H2O4S
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 50 mL | CO | CH4O
product | methyl 2,5-dibromo-4-methylbenzoate | BrC1=C(C(=O)OC)C=C(C(=C1)C)Br | C9H8Br2O2
